US06307087B1
Synthesis of 4-methoxybiphenyl
An oven dried resealable Schlenk tube was evacuated and backfilled with argon and charged with palladium acetate (2.2 mg, 0.01 mmol, 1.0 mol %), 2-(di-tert-butylphosphino)biphenyl (6.0 mg, 0.020 mmol, 2.0 mol %), phenylboronic acid (183 mg, 1.5 mmol), and potassium fluoride (174 mg, 3.0 mmol). The tube was evacuated and backfilled with argon, and THF (1 mL) and 4-chloroanisole (0.123 mL, 1.0 mmol) were added through a rubber septum. The tube was sealed with a teflon screwcap, and the reaction mixture was stirred at room temperature until the starting aryl chloride had been completely consumed as judged by GC analysis. The reaction mixture was then diluted with ether (30 mL), filtered through celite, and concentrated. The crude material was purified by flash chromatography on silica gel to afford 176 mg (96%) of the title compound.

reactant | phenylboronic acid | 1.5 mmol, 183 mg | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | potassium fluoride | 3.0 mmol, 174 mg | [F-].[K+]
reactant | 4-chloroanisole | 1.0 mmol, 0.123 mL | ClC1=CC=C(C=C1)OC | C7H7ClO
catalyst | palladium acetate | 0.01 mmol, 2.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-(di-tert-butylphosphino)biphenyl | 0.020 mmol, 6.0 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | 4-methoxybiphenyl | 176 mg, 96% | COC1=CC=C(C=C1)C1=CC=CC=C1 | C13H12O
